US06818652B2
A solution of 2-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-heptanoic acid ethyl ester (3.657 g, 11 mmole) in 100 mL of ether was treated with 1.6 g of lithium aluminum hydride, heated at reflux for four hours and then cooled to 0° C. The reaction mixture was quenched by the successive addition of 1.6 mL water, 1.6 mL 15% sodium hydroxide solution and 4.8 mL water and stirred at room temperature until a white precipitate formed. MgSO4 was added and the mixture was filtered and concentrated in vacuo affording a yellow oil. The product was purified by flash chromatography (SiO2, 25% ethyl acetate in hexanes) to yield 2.1 g of 2-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptan-1-ol as a pale yellow oil.

reactant | 2-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-heptanoic acid ethyl ester | 11 mmole, 3.657 g | C(C)OC(C(CCCCC)C1=CC=C2C(CC(NC2=C1)=O)(C)C)=O | C20H29NO3
reactant | lithium aluminum hydride | 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptan-1-ol | 2.1 g | CC1(CCNC2=CC(=CC=C12)C(CO)CCCCC)C | C18H29NO
